US04207234
2-(3phthalimido-2-oxo-1-azetidinyl)acetate was dissolved in a mixture (5 ml.) of chloroform and ethanol (1:1), and 1N ethanol solution of hydrozene monohydrate (1ml.) was added thereto at ambient temperature while stirring. The stirring was continued for 72 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue thus obtained was dissolved in ethanol, and then ethanol solution (1 ml.) of p-toluenesulfonyl chloride monohydrate (190 mg.) was added thereto. The mixture was concentrated under reduced pressure, and to the residue thus obtained there were added ethanol (1 ml.) and ethyl acetate (2 ml.) to give crystalline benzyl 2-(3-amino-2-oxo-1-azetidinyl)acetate p-toluenesulfonic acid salt, mp 147.5°-149° C.

reactant | 2-(3phthalimido-2-oxo-1-azetidinyl)acetate | C1(C=2C(C(N1C1C(N(C1)CC(=O)[O-])=O)=O)=CC=CC2)=O
reactant | p-toluenesulfonyl chloride monohydrate | 190 mg | O.C1(=CC=C(C=C1)S(=O)(=O)Cl)C
reactant | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 1N | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | benzyl 2-(3-amino-2-oxo-1-azetidinyl)acetate p-toluenesulfonic acid salt | C1(=CC=C(C=C1)S(=O)(=O)O)C.NC1C(N(C1)CC(=O)OCC1=CC=CC=C1)=O | InChI=1S/C12H14N2O3.C7H8O3S/c13-10-6-14(12(10)16)7-11(15)17-8-9-4-2-1-3-5-9;1-6-2-4-7(5-3-6)11(8,9)10/h1-5,10H,6-8,13H2;2-5H,1H3,(H,8,9,10)
